US06743564B2
At 20 to 30° C., 5.31 g of acrylonitrile was added to 7.11 g of pyrrolidine, which was stirred for 2 hours. Purification by vacuum distillation yielded 1-pyrrolidine-propiononitrile.

reactant | acrylonitrile | 5.31 g | C(C=C)#N | C3H3N
reactant | pyrrolidine | 7.11 g | N1CCCC1 | C4H9N
product | 1-pyrrolidine-propiononitrile | N1(CCCC1)CCC#N | C7H12N2
